US05643932
In 4 ml of ethanol was suspended 1 g of 4,5-diethoxycarbonyl-2-(3,4-diethoxyphenyl)thiazole. Thereto was added 2 ml of hydrazine hydrate. The mixture was sealed in a tube and heated at 130° C. for 48 hours. After cooling, the resulting crystals were collected by filtration, washed with ethanol, dried and recrystallized from dimethylformamide to obtain 220 mg of 2-(3,4-diethoxyphenyl)-5,6-dihydrothiazolo[4,5-d]pyridazine-4,7-dione.

reactant | 4,5-diethoxycarbonyl-2-(3,4-diethoxyphenyl)thiazole | 1 g | C(C)OC(=O)C=1N=C(SC1C(=O)OCC)C1=CC(=C(C=C1)OCC)OCC | C19H23NO6S
reactant | hydrazine hydrate | 2 ml | O.NN
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-(3,4-diethoxyphenyl)-5,6-dihydrothiazolo[4,5-d]pyridazine-4,7-dione | 220 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC2=C(C(NNC2=O)=O)N1 | C15H15N3O4S
